US08202865B2
Step 1: methyl 4-cyano-3-fluorobenzoate
4-Cyano-3-fluorobenzoic acid (Carbocore, 1 g; 6.06 mmol) was dissolved in MeOH (12.50 mL) to which 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.39 g; 7.27 mmol) followed by 4-dimethylaminopyridine (0.07 g; 0.61 mmol) were added. The mixture was stirred at RT overnight after which it was concentrated, taken up in EtOAc and washed with 0.1N HCl, 0.1 N NaOH and brine (2×50 mL each) and dried over MgSO4 to give the title compound as an off-white solid (0.95 g; 87%). 1H NMR: (DMSO-d6, 300 MHz) δ 8.16 (dd, J=6.40 Hz, J=7.91 Hz, 1H), 8.02 (dd, J=1.50 Hz, J=9.80 Hz, 1H), 7.97 (dd. J=1.50 Hz, J=7.91, 1H), 3.95 (s, 3H). GC/MS (M+·): 179 (EI). HPLC (Method A) Rt 3.17 min (Purity: 87.3%).

reactant | 4-Cyano-3-fluorobenzoic acid | 6.06 mmol, 1 g | C(#N)C1=C(C=C(C(=O)O)C=C1)F | C8H4FNO2
reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 7.27 mmol, 1.39 g | Cl.CN(CCCN=C=NCC)C
solvent | MeOH | 12.50 mL | CO | CH4O
catalyst | 4-dimethylaminopyridine | 0.61 mmol, 0.07 g | CN(C1=CC=NC=C1)C | C7H10N2
product | methyl 4-cyano-3-fluorobenzoate | 0.95 g, 87% | C(#N)C1=C(C=C(C(=O)OC)C=C1)F | C9H6FNO2
